US07601716B2
[4-(2-Chlorophenyl)piperazin-1-yl]-(3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)methanone
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 1-(2-chlorophenyl)piperazine as in General Procedure 10 to give the title compound. LCMS: m/z=625.96 (M+H+); retention time=1.05 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 1-(2-chlorophenyl)piperazine | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
product | [4-(2-Chlorophenyl)piperazin-1-yl]-(3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)methanone | ClC1=C(C=CC=C1)N1CCN(CC1)C(=O)C1=CC(=CC=C1)C1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)C(F)(F)F)N=C1 | C32H28Cl2F3N5O
